US08030336B2
Tert-Butyl 5-(3,4-methylenedioxyphenyl)nicotinate
In a flask was placed tert-butyl 5-bromonicotinate (1.00 g, 3.87 mmol), 10% w/w palladium on carbon (210 mg, ˜0.2 mmol Pd), potassium carbonate (1.10 g, 7.96 mmol), 3,4-methylenedioxy-phenyl boronic acid (0.96 g, 5.79 mmol), dimethylformamide (50 mL) and water (250 L). The flask was purged with nitrogen and then heated, with stirring, to 90° C. for 15 hr. The reaction mixture was allowed to cool, diluted with water (350 mL) and extracted with CH2Cl2 (4X). The combined extracts was washed with water, dried (MgSO4) and concentrated in vacuo. The crude residue was purified by flash chromatography on silica (gradient, CH2Cl2 to 50% ether/CH2Cl2) to provide an off-white solid (1.02 g, 88%).

reactant | tert-butyl 5-bromonicotinate | 3.87 mmol, 1.00 g | BrC=1C=NC=C(C(=O)OC(C)(C)C)C1 | C10H12BrNO2
reactant | potassium carbonate | 7.96 mmol, 1.10 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3,4-methylenedioxy-phenyl boronic acid | 5.79 mmol, 0.96 g | C1OC=2C=C(C=CC2O1)B(O)O | C7H7BO4
reactant | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
catalyst | palladium on carbon | ˜0.2 mmol, 210 mg | [Pd] | Pd
solvent | water | 250 L | O | H2O
product | Tert-Butyl 5-(3,4-methylenedioxyphenyl)nicotinate | 1.02 g, 88% | C1OC=2C=C(C=CC2O1)C=1C=NC=C(C(=O)OC(C)(C)C)C1 | C17H17NO4
